US08053440B2
To a solution of 3,5-dimethyl-4-hydroxy benzaldehyde (2.0 g, 13.33 mmol) in DMF was added NaH (640 mg, 16.0 mmol, 60% in oil) and the mixture was stirred for 1 h at room temperature. A solution of 1-bromo-2-methoxy ethane (1.85 g, 13.33 mmol) was added and the mixture was stirred for 72 h at room temperature. The reaction mixture was quenched by addition of saturated NH4Cl solution and diluted with water. The product was extracted with ethyl acetate. The combined organic layers were washed with water, brine and dried over Na2SO4. Upon removal of solvent, it gave 2.1 g of 4-(2-methoxy ethoxy)-3,5-dimethyl benzaldehyde (76 yield). To a solution of 2-amino-4,6-dimethoxybenzamide (200 mg, 1.02 mmol) and 4-(2-methoxy ethoxy)-3,5-dimethyl benzaldehyde (212 mg, 1.02 mmol) in N,N-dimethyl acetamide (10 mL), NaHSO3 (199 mg, 1.12 mmol) and p-TSA (22 mg, 0.102 mmol) were added and the reaction mixture was heated at 150° C. for 3 h. Cooled to room temperature and the solvent was evaporated under reduced pressure. The residue was diluted with water and the solid was collected to give the crude product. The crude product was purified by chromatography using 2% MeOH in CH2Cl2 to give 5,7-dimethoxy-2-(4-(2-methoxyethoxy)-3,5-dimethylphenyl)quinazolin-4(3H)-one (170 mg, 43%). Selected data: MS (ES) m/z: 385.10; MP 201-202° C.

reactant | 3,5-dimethyl-4-hydroxy benzaldehyde | 13.33 mmol, 2.0 g | CC=1C=C(C=O)C=C(C1O)C | C9H10O2
reactant | NaH | 16.0 mmol, 640 mg | [H-].[Na+]
reactant | 1-bromo-2-methoxy ethane | 13.33 mmol, 1.85 g | BrCCOC | C3H7BrO
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(2-methoxy ethoxy)-3,5-dimethyl benzaldehyde | 2.1 g | COCCOC1=C(C=C(C=O)C=C1C)C | C12H16O3
